US05428158
Dissolve diisopropylamine (0.46 mL, 3.3 mmol) in tetrahydrofuran (10 mL) and cool in an ice bath. Add, by dropwise addition, n-butyllithium (1.8 mL of a 1.6M solution in hexanes, 2.9 mmol). Stir for 15 minutes, cool to -78° C. and add a solution of methyl cyclopentanecarboxylate (322 mg, 2.51 mmol) in tetrahydrofuran (5 mL). Stir for 1 hour then treat with hexamethylphosphoramide (0.66 mL, 3.8 mmol). Stir for 15 minutes then add 4-methoxybenzyl disulfide ((1.0 g, 3.3 mmol) in tetrahydrofuran (13 mL). Stir for 3 hours at -78° C., quench with saturated aqueous ammonium chloride (5 mL). Partition between water (2×50 mL) and ethyl acetate (100 mL). Dry (Na2SO4) and pass through a plug of silica gel (methylene chloride) to give 1-(carbomethoxy)-1-(4-methoxybenzylthio)cyclopentane as a pale yellow oil.

reactant | diisopropylamine | 3.3 mmol, 0.46 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | methyl cyclopentanecarboxylate | 2.51 mmol, 322 mg | C1(CCCC1)C(=O)OC | C7H12O2
reactant | hexamethylphosphoramide | 3.8 mmol, 0.66 mL | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
reactant | 4-methoxybenzyl disulfide | COC1=CC=C(CSSCC2=CC=C(C=C2)OC)C=C1 | C16H18O2S2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 13 mL | O1CCCC1 | C4H8O
product | 1-(carbomethoxy)-1-(4-methoxybenzylthio)cyclopentane | C(=O)(OC)C1(CCCC1)SCC1=CC=C(C=C1)OC | C15H20O3S
